US09056875B2
b. Preparation of 5-Amino-3,4-Dimethylthieno[2,3-c]Pyridazine-6-Carbonitrile
The 5,6,-dimethyl-3-thioxo-2,3-dihydropyridazine-4-carbonitrile (99 mg, 0.60 mmol) was stirred in ethanol (6.0 mL). Sodium acetate (50 mg, 0.60 mmol) and chloroacetonitrile (0.040 mL, 0.60 mmol) were added and the mixture was stirred at ambient temperature for 90 minutes. The mixture was then diluted with IPA, stirred for 15 minutes, and filtered. The solute was concentrated in vacuo, and the resulting solid was dried overnight at 60° C. in a vacuum oven to give the product. LC/MS: RT=0.38 min., m/z=205 [M+H]+.

reactant | 5,6,-dimethyl-3-thioxo-2,3-dihydropyridazine-4-carbonitrile | 0.60 mmol, 99 mg | CC1=C(C(NN=C1C)=S)C#N | C7H7N3S
reactant | Sodium acetate | 0.60 mmol, 50 mg | C(C)(=O)[O-].[Na+]
reactant | chloroacetonitrile | 0.60 mmol, 0.040 mL | ClCC#N | C2H2ClN
solvent | ethanol | 6.0 mL | C(C)O | C2H6O
solvent | IPA | CC(C)O | C3H8O
product | 5-Amino-3,4-Dimethylthieno[2,3-c]Pyridazine-6-Carbonitrile | NC1=C(SC=2N=NC(=C(C21)C)C)C#N | C9H8N4S
